US06369088B2
4-(4-Chlorophenoxy)-3-nitroaniline
1.4 g of potassium carbonate were added to a solution of 1.29 g of 4-chlorophenol in 8 ml of DMF and, after stirring for 30 minutes, 1.6 g of 4-fluoro-3-nitroaniline were added, and the mixture was stirred at 100° C. for 3 hours. After cooling, 80 ml of water were added and, after brief stirring, the precipitate was filtered off with suction and dried in vacuo at 40° C.

reactant | potassium carbonate | 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-chlorophenol | 1.29 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | 4-fluoro-3-nitroaniline | 1.6 g | FC1=C(C=C(N)C=C1)[N+](=O)[O-] | C6H5FN2O2
reactant | water | 80 ml | O | H2O
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | 4-(4-Chlorophenoxy)-3-nitroaniline | ClC1=CC=C(OC2=C(C=C(N)C=C2)[N+](=O)[O-])C=C1 | C12H9ClN2O3
